US04281000
7-(3-Furyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile
A mixture of 0.01 mole of 3-dimethylamino-1-(3-furyl)-2-propen-1-one and 0.01 mole of 3-aminopyrazole-4-carbonitrile in glacial acetic acid is heated at reflux temperature for 6 hours. The solvent is removed in vacuo and the residue purified as described for Example 1 to give the product of the example.

reactant | 3-dimethylamino-1-(3-furyl)-2-propen-1-one | 0.01 mole | CN(C=CC(=O)C1=COC=C1)C | C9H11NO2
reactant | 3-aminopyrazole-4-carbonitrile | 0.01 mole | NC1=NNC=C1C#N | C4H4N4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-Furyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | O1C=C(C=C1)C1=CC=NC=2N1N=CC2C#N | C11H6N4O
